US07723367B2
2-(6-Chloro-5-fluoro-pyridin-3-yloxy)-nicotinonitrile
2-Fluoro-nicotinonitrile was reacted with 6-chloro-5-fluoro-pyridin-3-ol according to the method of Example 85A to provide the title compound. MS (DCI/NH3) m/z 250 (M)+, 252 (M+2)+.

reactant | 2-Fluoro-nicotinonitrile | FC1=C(C#N)C=CC=N1 | C6H3FN2
reactant | 6-chloro-5-fluoro-pyridin-3-ol | ClC1=C(C=C(C=N1)O)F | C5H3ClFNO
product | 2-(6-Chloro-5-fluoro-pyridin-3-yloxy)-nicotinonitrile | ClC1=C(C=C(C=N1)OC1=C(C#N)C=CC=N1)F | C11H5ClFN3O
